US07361669B2
Preparation of N-(3-Chloro-phenyl)-2-(5-pyridin-3-yl-2H-[1,2,4]triazol-3-ylsulfinyl)-acetamide
To a dichloromethane solution (2 mL) of N-(3-chloro-phenyl)-2-(5-pyridin-3-yl-2H-[1,2,4]triazol-3-ylsulfanyl)-acetamide (0.080 g, 0.25 mmol), m-chloroperbenzoic acid (0.25 mmol) was and the mixture was stirred for 2 h. The reaction mixture was quenched with sodium bicarbonate solution and the product extracted in ethyl acetate. The ethyl acetate layer was dried, filtered and evaporated to afford crude residue. This residue was purified by reverse phase HPLC to afford pure title compound (40 mg, 45%). MS (ES) 361.5

reactant | N-(3-chloro-phenyl)-2-(5-pyridin-3-yl-2H-[1,2,4]triazol-3-ylsulfanyl)-acetamide | 0.25 mmol, 0.080 g | ClC=1C=C(C=CC1)NC(CSC=1NN=C(N1)C=1C=NC=CC1)=O | C15H12ClN5OS
reactant | m-chloroperbenzoic acid | 0.25 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(3-Chloro-phenyl)-2-(5-pyridin-3-yl-2H-[1,2,4]triazol-3-ylsulfinyl)-acetamide | 40 mg, 45% | ClC=1C=C(C=CC1)NC(CS(=O)C=1NN=C(N1)C=1C=NC=CC1)=O | C15H12ClN5O2S
